US07858632B2
5-Benzyloxy-6-isopropyl-1,3-dimethyl-1H-indole (0.270 g, 1.30 mmol) and Pd/C 10% (0.150 g) were added to 10 mL of methanol, and the mixture was hydrogenated in a Parr apparatus for 1.5 hours at 55 psi, at room temperature. The catalyst was removed by filtration and the solvent was removed in vacuo. The residue was purified with flash chromatography (5% ethyl acetate in hexanes) to yield 210 mg of 6-isopropyl-1,3-dimethyl-1H-indol-5-ol.

reactant | 5-Benzyloxy-6-isopropyl-1,3-dimethyl-1H-indole | 1.30 mmol, 0.270 g | C(C1=CC=CC=C1)OC=1C=C2C(=CN(C2=CC1C(C)C)C)C | C20H23NO
catalyst | Pd/C | 0.150 g | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | 6-isopropyl-1,3-dimethyl-1H-indol-5-ol | 210 mg | C(C)(C)C1=C(C=C2C(=CN(C2=C1)C)C)O | C13H17NO
